US06916612B2
Synthesis of 8-bromo-2′-deoxyadenosine
2′-deoxyadenosine (7 gm, 25.9 mmol) was dissolved in sodium acetate buffer (150 mL, 1 M, pH 5.0) by worming it to about 50° C., then was cooled dawn to 30° C., then 3 mL of bromine in 100 mL of the same buffer was added drop wise at RT for 15 min, to the reaction. After 6 hrs the TLC on silica gel (20% MeOH in CH2Cl2) showed that all starting material was converted to a new product. The reaction was discolored by adding some sodium metabisulfite (Na2S2O5) while stirring. The color changed to a white solution, and the pH of the reaction was neutralized by adding 1 M NaOH. The reaction mixture was kept at 4° C. (refrigerator) for 16 hrs. The solid material was then filtered, washed with cold water, then acetone to give a solid yellow powder product (5.75 gm, 64%). The structure of this product was confirmed by H-NMR and ES-MS.

reactant | 2′-deoxyadenosine | 25.9 mmol, 7 gm | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O3
reactant | bromine | 3 mL | BrBr | Br2
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | sodium acetate | 1 M, 150 mL, pH 5.0 | C(C)(=O)[O-].[Na+]
product | 8-bromo-2′-deoxyadenosine | 5.75 gm, 64% | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O3
